US06627683B1
3750 ml of ethanol and 98.75 grams of potassium hydroxide (1.75 mol) were combined in a 5000 ml three-necked reaction flask, equipped with a magnetic stirrer, a thermometer, a condenser and an addition funnel. After the potassium hydroxide dissolved, 93.75 grams of 4-hydroxybenzoic acid (0.675 mol) and 1.25 grams of potassium iodide were added to the solution. The solution was then heated to reflux, and 81.75 grams of allyl bromide (0.675 mol) was added dropwise to the solution and refluxed overnight. A total of 2000 ml of solvent was then distilled out of the reactor. A layer of solid potassium bromide collected on the internal wall of the flask. The remaining mixture was cooled to room temperature, poured into 2500 ml of water, and neutralized with 6 N aqueous hydrochloric acid. The product precipitated, was filtered, and was washed with deionized water. The crude product was dried under vacuum at 110° C., recrystallized from ethanol (400 ml), and dried again under vacuum, to provide allyloxy benzoic acid.

reactant | potassium hydroxide | 1.75 mol, 98.75 grams | [OH-].[K+]
reactant | 4-hydroxybenzoic acid | 0.675 mol, 93.75 grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium iodide | 1.25 grams | [I-].[K+]
reactant | allyl bromide | 0.675 mol, 81.75 grams | C(C=C)Br | C3H5Br
solvent | ethanol | 3750 ml | C(C)O | C2H6O
product | allyloxy benzoic acid | C(C=C)OC1=C(C(=O)O)C=CC=C1 | C10H10O3
